US04319913
The procedure of Example 1 was employed utilizing N-benzylaniline and octyl phosphonic dichloride. The reaction of the dilithio compound and the octyl phosphonic dichloride was conducted at -65° C. The crude product produced as a result of the chromatographic separation was dissolved in methylene chloride and separated on a Woelm's neutral alumina column using ethyl acetate as the eluant to yield 1-octyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (1.1 g, 5% yield) as a pale yellow oil (nD =1.5502).

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | octyl phosphonic dichloride | C(CCCCCCC)P(=O)(Cl)Cl | C8H17Cl2OP
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-octyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 1.1 g, 5% yield | C(CCCCCCC)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C21H28NOP
